US08604069B2
(A-82-8) 1-(2,2-Dibromovinyl)-3-isobutylcyclobutane
To a solution of carbon tetrabromide (168 g) in methylene chloride (252 mL) was added dropwise a solution of triphenylphosphine (266 g) in methylene chloride (350 mL) at ice temperature. The mixture was stirred at ice temperature for 20 min. To the mixture was then added dropwise a solution of 3-isobutylcyclobutanecarbaldehyde in methylene chloride at ice temperature. The mixture was stirred at ice temperature for 20 min. After an addition of aqueous 10 w/v % sodium carbonate (1 L) dropwise to the mixture, the mixture was extracted with methylene chloride (200 mL×2). The combined organic layer was washed with water and brine, then dried over magnesium sulfate. The magnesium sulfate was filtered off and the filtrate was concentrated in vacuo. To the resultant residue were added hexane/chloroform=1/1 (750 mL), silica gel (750 mL) and hexane (900 mL). The mixture was filtered and the filtrate was concentrated in vacuo. To the resultant residue was added hexane (500 mL). The mixture was filtered and the filtrate was concentrated in vacuo. The resultant residue was purified by silica gel column chromatography (Eluent: hexane) to give the title compound (76.21 g).

reactant | carbon tetrabromide | 168 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 266 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-isobutylcyclobutanecarbaldehyde | C(C(C)C)C1CC(C1)C=O | C9H16O
reactant | sodium carbonate | 1 L | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 252 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 350 mL | C(Cl)Cl | CH2Cl2
product | 1-(2,2-Dibromovinyl)-3-isobutylcyclobutane | 76.21 g | BrC(=CC1CC(C1)CC(C)C)Br | C10H16Br2
